US06159904
1.5 Grams (4.9 mmol) of 3,4-dichloro-5-methyl-6-carboxythiochroman-1,1-dioxide was dissolved in 5 ml of t-amyl alcohol, and 1.1 g (5.3mmol, 1.2 eq.) of 1-ethyl-5-hydroxypyrazole and 1.1 g (5.3 mmol, 1.2 eq.) of N,N'-dicyclohexylcarbodiimide were added. The mixture was stirred at room temperature for 2.5 hours. After the completion of the reaction, the reaction mixture was extracted with ethyl acetate and hexane, and liberated N,N'-dicyclohexylurea was filtered off. An organic layer was concentrated under reduced pressure and purified by column chromatography (silica gel/ethyl acetate) to give 1.9 g (yield 95%) of 3,4-dichloro-5-methyl-6-(1-ethylpyrazol-5-yl)oxycarbonylthiochroman-1,1-dioxide.

reactant | 3,4-dichloro-5-methyl-6-carboxythiochroman-1,1-dioxide | 4.9 mmol | ClC1CS(C2=CC=C(C(=C2C1Cl)C)C(=O)O)(=O)=O | C11H10Cl2O4S
reactant | 1-ethyl-5-hydroxypyrazole | 5.3mmol, 1.1 g, 1.2 eq. | C(C)N1N=CC=C1O | C5H8N2O
reactant | N,N'-dicyclohexylcarbodiimide | 5.3 mmol, 1.1 g, 1.2 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | t-amyl alcohol | 5 ml | C(C)(C)(CC)O | C5H12O
product | 3,4-dichloro-5-methyl-6-(1-ethylpyrazol-5-yl)oxycarbonylthiochroman-1,1-dioxide | 1.9 g, yield 95% | ClC1CS(C2=CC=C(C(=C2C1Cl)C)C(=O)OC1=CC=NN1CC)(=O)=O | C16H16Cl2N2O4S
